US04716169
2-(4-Amino-2-methoxy-phenyl)-imidazo[1,2-b]pyridazine
0.3 g (1 mmol) of 2-(4-Acetamino-2-methoxyphenyl)-imidazo[1,2-b]pyridazine are heated for 11/2 hours in 20 ml of 6N hydrochloric acid over a steam bath. After cooling and filtration, the residue is made alkaline with conc. ammonia. The product precipitated is suction filtered, washed with water and dried at 100° C. over potassium hydroxide in a drying gun.

reactant | 2-(4-Acetamino-2-methoxyphenyl)-imidazo[1,2-b]pyridazine | 1 mmol, 0.3 g | N(C(=O)C)C1=CC(=C(C=C1)C=1N=C2N(N=CC=C2)C1)OC | C15H14N4O2
solvent | hydrochloric acid | 6N, 20 ml | Cl | ClH
product | 2-(4-Amino-2-methoxy-phenyl)-imidazo[1,2-b]pyridazine | NC1=CC(=C(C=C1)C=1N=C2N(N=CC=C2)C1)OC | C13H12N4O
